US08703805B2
Preparation of 4-[2-(2-Chloro-phenyl)-5-trifluoromethyl-2H-pyrazol-3-yl]-N,N-dimethyl-benzamide
In a 1 dram vial was added 4-[2-(2-Chloro-phenyl)-5-trifluoromethyl-2H-pyrazol-3-yl]-benzoyl chloride (300 mL, 0.3 mmol) as a 0.1M solution in Dichloromethane, Dimethyl-amine (27 mg, 0.6 mmol) and N,N-Diisopropylethylamine (77.4 mg, 0.6 mmol). The reaction was stirred at room temperature for 30 min and then placed directly on silica and purified using a gradient of Hexane to Ethyl Acetate 0-50% over 10 CV. The relevant fractions were combined and dried in vacuo to give 108.6 mg (92%) of an off white solid; MS (ES): 394 [M+H]+; 1H NMR (400 MHz, DMSO-d6): δ 7.84 (dd, J=7.8 Hz; 1.7 Hz 1H), 7.73-7.58 (m, 3H), 7.45-7.35 (m, 5H), 3.00 (s, 3H), 2.89 (s, 3H).

reactant | 4-[2-(2-Chloro-phenyl)-5-trifluoromethyl-2H-pyrazol-3-yl]-benzoyl chloride | 0.3 mmol, 300 mL | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(C(=O)Cl)C=C1)C(F)(F)F | C17H9Cl2F3N2O
reactant | Dimethyl-amine | 0.6 mmol, 27 mg | CNC | C2H7N
reactant | N,N-Diisopropylethylamine | 0.6 mmol, 77.4 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 4-[2-(2-Chloro-phenyl)-5-trifluoromethyl-2H-pyrazol-3-yl]-N,N-dimethyl-benzamide | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(C(=O)N(C)C)C=C1)C(F)(F)F | C19H15ClF3N3O
